US06239283B1
To a mixture of 3-fluoroaniline (I, 29.058 g, 261.5 mmol) in methylene chloride (116 ml) is added a mixture of potassium carbonate (27.26 g, 197.3 mmol, 0.75 eq) in water (116 ml) at 20-25°. The mixture is warmed to 32°, and isobutyl chloroformate (38.5 g, 282 mmol, 1.08 eq) is added over 13 min while maintaining 30-35° with mild cooling. The mixture is stirred at 30-35° for 2.5 hr until the reaction is complete to give 2-methylpropyl-(3-fluorophenyl)carbamate as determined by GC [GC method A, <0.1 area % 3-fluoroaniline; RT (3-fluoroaniline)=3.97 min, RT=14.2 min]. Aqueous ammonia (29.3 wt %, 4.20 ml, 65.0 mmol, 0.25 eq) is added and the mixture stirred at 30-35° for 15 min. The mixture is cooled to 20-25° and the pH adjusted from 8.7 to 1.9 with hydrochloric acid (37 wt %, 6.36 g, 64.5 mmol, 0.25 eq). The phases are separated and the aqueous washed with methylene chloride (58 ml). The combined organics are washed with water (118 ml) and the water wash back extracted with methylene chloride (58 ml). [In a prior experiment crystallization at this point from heptane at −30° gave 2-methylpropyl-(3-fluorophenyl)carbamate analytically pure in 98.1% yield.]. Dibromantin (57.37 g;, 200.6 mmol, 0.767 eq) and water (174 ml) are added to the combined organics and the mixture stirred at 40° for 12 hr until complete as measured by HPLC (<0.1 2-methylpropyl-(3-fluorophenyl)carbamate). The mixture is cooled to 20-25° and clarified on a “C” frit by vacuum filtration. The phases are separated and the organic (lower) phase added to a mixture of sodium sulfite (33.06 g, 262.3 mmol, 1.00 eq) in water (220 ml) with good agitation. The phases are separated and the organic phase washed with water (150 ml). Serial back-extracted the clarified solids and all aqueous with a single portion of methylene chloride (150 ml). Added heptane (520 ml) to the combined organic phases and concentrated under reduced pressure. Heptane (240 ml) is added, the mixture cooled to −30°, the precipitate is collected by vacuum filtration, washed with cold heptane (150 ml) and dried in a nitrogen stream to give the title compound; mp=79-82°; TLC Rf=0.41 (ethyl acetate/hexanes, 5/95); HPLC (method A) rt=6.75 min; NMR (CDCl3, 400 MHz) d 7.41, 6.96, 6.87, 3.96, 1.97 and 0.96; CMR (CDCl3, 75 MHz) d 159.2, 153.4, 139.0, 133.3, 115.1, 107.1, 102.0, 71.8, 27.9 and 19.0; MS (CI, NH3) m/Z (relative intensity) 310 (9.3), 309 (100), 308 (6.1), 307 (100), 292 (11), 291 (18), 290 (7.5) and 289 (19)

reactant | 3-fluoroaniline | 261.5 mmol, 29.058 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | potassium carbonate | 197.3 mmol, 27.26 g, 0.75 eq | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl chloroformate | 282 mmol, 38.5 g, 1.08 eq | ClC(=O)OCC(C)C | C5H9ClO2
solvent | methylene chloride | 116 ml | C(Cl)Cl | CH2Cl2
solvent | water | 116 ml | O | H2O
product | 2-methylpropyl-(3-fluorophenyl)carbamate | CC(COC(NC1=CC(=CC=C1)F)=O)C | C11H14FNO2
